US08957068B2
To a solution of (S)-tert-butyl 1-(biphenyl-4-yl)-2-hydroxyethylcarbamate (608 mg, 1.940 mmol) in MeOH (3 mL) was added HCl (4M in dioxane, 8 mL) at room temperature. The mixture was stirred for 1 hour and concentrated under reduced pressure. The residue was dissolved in DCM (10 mL)/water (1.0 mL) and stirred with NaHCO3 for 1 hour. The mixture was filtered off and rinsed with DCM. The filtrate was dried over sodium sulfate, filtered off and concentrated under reduced pressure providing (S)-2-amino-2-(biphenyl-4-yl)ethanol (171 mg) as a white solid. LCMS m/z 214.2 (M+H)+, Rt 0.58 min.

reactant | (S)-tert-butyl 1-(biphenyl-4-yl)-2-hydroxyethylcarbamate | 1.940 mmol, 608 mg | C1(=CC=C(C=C1)[C@@H](CO)NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C19H23NO3
reactant | HCl | 4M, 8 mL | Cl | ClH
solvent | MeOH | 3 mL | CO | CH4O
product | (S)-2-amino-2-(biphenyl-4-yl)ethanol | 171 mg | N[C@H](CO)C1=CC=C(C=C1)C1=CC=CC=C1 | C14H15NO
